US08609656B2
9-{4-[3-(4-Chloro-3-(trifluoromethyl)phenyl)ureido]phenyl}-9H-purine-6-carboxylic acid methylamide (Table 3, Compound No. 7)
In 3 mL of dimethylformamide, 30 mg (0.063 mmol) of 9-{4-[3-(4-chloro-3-(trifluoromethyl)phenyl)ureido]phenyl}-9H-purine-6-carboxylic acid was dissolved, and 10 μL of 40% methylamine, 17 mg (0.13 mmol) of HATU and HOAt (0.13 mmol) were added thereto and the mixture solution was stirred at room temperature overnight. The reaction solution was partitioned between ethyl acetate and water and the organic layer was washed with water and a saturated sodium chloride solution in the order named, and then concentrated under reduced pressure. The coarse product was recrystallized from ethyl acetate to obtain 16 mg (52%) of a target product as a white solid.

reactant | 9-{4-[3-(4-chloro-3-(trifluoromethyl)phenyl)ureido]phenyl}-9H-purine-6-carboxylic acid | 0.063 mmol, 30 mg | ClC1=C(C=C(C=C1)NC(NC1=CC=C(C=C1)N1C2=NC=NC(=C2N=C1)C(=O)O)=O)C(F)(F)F | C20H12ClF3N6O3
reactant | methylamine | 10 μL | CN | CH5N
reactant | HATU | 0.13 mmol, 17 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | HOAt | 0.13 mmol | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
solvent | dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
product | 9-{4-[3-(4-Chloro-3-(trifluoromethyl)phenyl)ureido]phenyl}-9H-purine-6-carboxylic acid methylamide | 16 mg, 52% | CNC(=O)C1=C2N=CN(C2=NC=N1)C1=CC=C(C=C1)NC(=O)NC1=CC(=C(C=C1)Cl)C(F)(F)F | C21H15ClF3N7O2
